US04632784
A solution of 90.0 mg (0.290 mmol) of [3R-[3 beta,5S,(5beta,(R*)-1R*-(1 beta,3a alpha,4alpha,7a beta)]]-dihydro-5-[2-(octahydro-4-hydroxy-7a-methyl-1H-inden-1-yl)-2-methylethyl]-3-hydroxy-3-methyl-2(3H)-furanone in 4 ml. of dry methylene chloride was treated at room temperature with 340.0 mg (1.162 mmol) of 2,2'-bipyridinium chlorochromate for 5.5 hours. A few drops of isopropyl alcohol were then added and the resulting mixture diluted with 50 ml of methylene chloride, filtered through Celite® filter aid. After evaporation of the solvent, the residue was dissolved in 100 ml. of ethyl acetate, extracted with 3×20 ml. of 1N hydrochloric acid and then with 3×30 ml of brine. The organic phases were combined, dried and evaporated to give 89.0 mg (quantitative yield) of [3R-[3 beta,5S,(5 beta,(R*)-1R*-(1 beta,3a alpha,7a beta)]]-dihydro-5-[2-(octahydro-7a-methyl-1H-inden-4-one-1-yl)-2-methylethyl]-3-hydroxy-3-methyl-2(3H)-furanone.

reactant | dihydro-5-[2-(octahydro-4-hydroxy-7a-methyl-1H-inden-1-yl)-2-methylethyl]-3-hydroxy-3-methyl-2(3H)-furanone | OC1C2CCC(C2(CCC1)C)C(CC1CC(C(O1)=O)(C)O)C | C18H30O4
reactant | 2,2'-bipyridinium chlorochromate | 1.162 mmol, 340.0 mg | [Cr](=O)(=O)([O-])Cl.[NH+]1=C(C=CC=C1)C1=[NH+]C=CC=C1.[Cr](=O)(=O)([O-])Cl
catalyst | isopropyl alcohol | A few drops | C(C)(C)O | C3H8O
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | dihydro-5-[2-(octahydro-7a-methyl-1H-inden-4-one-1-yl)-2-methylethyl]-3-hydroxy-3-methyl-2(3H)-furanone | quantitative yield | CC12CCCC(C2CCC1C(CC1CC(C(O1)=O)(C)O)C)=O | C18H28O4
